US05663053
2-(9-Hydroxynonyl)-4,5-diphenyl-1,2,3-triazole
4,5-Diphenyl-1,2,3-triazole was treated with 9-bromononan-1-ol and potassium carbonate in butanone to give after chromatography the title compound as a light brown oil. Found: C, 76.0; H, 8.2; N, 11.2% C23H29N30 requires: C, 76.0; H, 8.0; N, 11.6%.

reactant | 4,5-Diphenyl-1,2,3-triazole | C1(=CC=CC=C1)C=1N=NNC1C1=CC=CC=C1 | C14H11N3
reactant | 9-bromononan-1-ol | BrCCCCCCCCCO | C9H19BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | CC(CC)=O | C4H8O
product | 2-(9-Hydroxynonyl)-4,5-diphenyl-1,2,3-triazole | OCCCCCCCCCN1N=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H29N3O
